US09328074B2
The cyclopropane derivative, 2,2-diphenylcyclopropanyl carboxylate ethyl ester (0.97 g, 3.7 mmol) was dissolved in 3.7 mL CF3CO2H. Into the solution was added NaNO2 (0.28 g, 4.0 mmol, 1.1 eq.) in several ports so that the reaction temperature did not excess 40° C. After addition, the reactants were stirred at room temperature (about 18° C.) for half an hour. And the reactants were poured into an iced water and extracted with diethyl ether (2×20 mL); the ethereal solutions were combined and subsequently washed with sat. NaHCO3 (2*20 mL), then water (20 mL) and brine (20 mL). The washed ethereal solution was then dried over anhydrous Na2SO4. After removing the desiccant, the ethereal solution was concentrated to obtain a light brown oil. The crude product 1H NMR of the crude product showed that the reaction was clean and a virtual 100% yield. The crude product was further purified over silica chromatography (Rf: 0.45, eluent: 20% ethyl acetate in petrol) to obtain 5,5-diphenylisoxazoline carboxylate ethyl ester 0.958 g (89% yield) as a white solid. 1H NMR (400 MHz, CDCl3): 7.41-7.26 (10H, m), 4.34 (2H, q, J=7.1 Hz), 3.86 (2H, s), 1.36 (3H, t, J=7.1 Hz). 13C NMR (400 MHz, CDCl3): 160.54, 151.09, 142.99, 128.54, 128.02, 125.95, 94.79, 62.15, 46.78, 14.12.

reactant | cyclopropane | C1CC1 | C3H6
reactant | 2,2-diphenylcyclopropanyl carboxylate ethyl ester | 3.7 mmol, 0.97 g | C(C)OC(=O)C1C(C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H18O2
reactant | NaNO2 | 4.0 mmol, 0.28 g, 1.1 eq. | N(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | CF3CO2H | 3.7 mL | C(F)(F)(F)C(=O)O | C2HF3O2
product | 5,5-diphenylisoxazoline carboxylate ethyl ester | 0.958 g, 89% yield | C(C)OC(=O)C1=NOC(C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H17NO3
